US04202981
2-Oxo-6,9-dimethyl-4-trifluoromethyl-6,7,8,9-tetrahydro-2H-pyrano [2,3-b][1,8]naphthyridine
The following procedure is typical of that used to prepare the various azacoumarins. 7-Hydroxy-1,4-dimethyl-1,2,3,4-tetrahydro-1,8-naphthyridine (0.19 g.), 1.2 ml. of ethyl trifluoroacetoacetate, 50 mg. of anhydrous zinc chloride, and 10 ml. of absolute ethanol were refluxed for 40 hours. The cooled solution was poured with stirring into 50 ml. of water plus 3 ml. of hydrochloric acid; the yellow precipitate was filtered, washed with water, and dried (0.31 g., 95%). Solvent used for recrystallization, melting point, fluorescence data and analytical data are summarized in the table below. The 1H nmr spectral data (deuteriochloroform, 100 MHz) on the analogous 6,8,9-trimethyl derivative are: δ1.37 (d, 6H, CH3CH), 1.47 (m,1H, H7b), 2.10 (dt, 1H, H7a,J=13 Hz, J=4 Hz), 2.80 (m, 1H, H6), 3.20 (s, 3H, NCH3), 3.70 (m, 1H, H8), 6.38 (s, 1H, H3), 7.41 (q, 1H, H5, JH5 --CF3 =~1.5 Hz).

reactant | 7-Hydroxy-1,4-dimethyl-1,2,3,4-tetrahydro-1,8-naphthyridine | 0.19 g | OC1=CC=C2C(CCN(C2=N1)C)C | C10H14N2O
reactant | ethyl trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 2-Oxo-6,9-dimethyl-4-trifluoromethyl-6,7,8,9-tetrahydro-2H-pyrano [2,3-b][1,8]naphthyridine | O=C1C=C(C=2C(=NC=3N(CCC(C3C2)C)C)O1)C(F)(F)F | C14H13F3N2O2
